US07105503B2
3-Methyl-5-nitrobenzotriazole (0.8 g) was reduced by SnCl2 (4.5 g) at 0° C. in 5 mL of conc. HCl. The pH of the reaction mixture was adjusted to basic and the mixture was extracted with EtOAc. The product, 5-amino-3-methylbenzotriazole (0.6 g), obtained after removal of the solvent, was used for the next reaction without further purification.

reactant | 3-Methyl-5-nitrobenzotriazole | 0.8 g | CN1N=NC2=C1C=C(C=C2)[N+](=O)[O-] | C7H6N4O2
reactant | SnCl2 | 4.5 g | Cl[Sn]Cl
solvent | HCl | 5 mL | Cl | ClH
product | 5-amino-3-methylbenzotriazole | 0.6 g | NC1=CC2=C(N=NN2C)C=C1 | C7H8N4
